US07456164B2
Anhydrous tetrahydrofuran (141 ml, 10 vol) was charged rapidly onto stirred and cooled (0-5° C.) lithium aluminium hydride (6.2 g, 0.1634 mol, 0.44 wt) under nitrogen. The resulting slurry was cooled to 0-5° C. and then a solution of methyl 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxylate (14.1 g, 0.04058 mol) in tetrahydrofuran (99 ml, 7 vol) was added dropwise over 30 minutes maintaining 0-5° C. On complete addition the reaction was allowed to warm to room temperature over 30 minutes and stirred at 18-25° C. for 30 minutes, LC analysis showed the reaction to be complete. The mixture was cooled to 0 to 5° C., a 1:1 mixture of tetrahydrofuran and water (18.6 ml, 1.32 vol) was added very slowly. The mixture was further quenched with 20% w/v sodium hydroxide solution (6.2 ml, 0.44 vol) and water (18.6 ml, 1.32 vol) and the resulting white suspension stirred vigorously for 30 minutes at 18-25° C. The salts were removed by filtration and rinsed with tetrahydrofuran (3×150 ml). The combined filtrates were evaporated to dryness at 40° C. to yield {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methanol (12.1 g, 94%) as a white solid.

reactant | lithium aluminium hydride | 0.1634 mol, 6.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carboxylate | 0.04058 mol, 14.1 g | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C(=O)OC | C20H29NO4
reactant | water | 18.6 ml | O | H2O
solvent | tetrahydrofuran | 99 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 141 ml | O1CCCC1 | C4H8O
product | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methanol | 12.1 g, 94% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CO | C19H29NO3
